US09334269B2
Synthesis of 3-(4-chloro-1,3,5-triazin-2-ylamino)-N-methylbenzamide
2,4-Dichloro-1,3,5-triazine (6.99 g, 46.6 mmol) was dissolved in DMF (56.5 mL, 46.6 mmol) and the solution was cooled to 0° C. To this solution was added N-ethyl-N-isopropylpropan-2-amine (8.93 mL, 51.3 mmol) followed by the portionwise addition of 3-amino-N-methylbenzamide (7.00 g, 46.6 mmol). The resulting reaction mixture was allowed to slowly warm to room temperature and stirred for 4 hours. Water (about 800 mL) was added to the reaction mixture. A small amount of solid precipitated out of the solution at which point 100 mL of CH2Cl2 was added. The product was filtered off through a coarse Buchner funnel with the aid of water. After drying under vacuum, batch #1 of 3-(4-chloro-1,3,5-triazin-2-ylamino)-N-methylbenzamide was obtained (7.15 g, 58% yield) as a yellow solid. The filtrate was extracted with CH2Cl2 (3×100 mL). The organic layer was separated, dried over MgSO4, filtered and concentrated, providing an additional batch of material (2.4 g, 20%) as yellow solid.

reactant | 2,4-Dichloro-1,3,5-triazine | 46.6 mmol, 6.99 g | ClC1=NC=NC(=N1)Cl | C3HCl2N3
reactant | DMF | 46.6 mmol, 56.5 mL | CN(C)C=O | C3H7NO
reactant | N-ethyl-N-isopropylpropan-2-amine | 51.3 mmol, 8.93 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 3-amino-N-methylbenzamide | 46.6 mmol, 7.00 g | NC=1C=C(C(=O)NC)C=CC1 | C8H10N2O
solvent | Water | about 800 mL | O | H2O
product | 3-(4-chloro-1,3,5-triazin-2-ylamino)-N-methylbenzamide | 2.4 g, 20% | ClC1=NC(=NC=N1)NC=1C=C(C(=O)NC)C=CC1 | C11H10ClN5O
